US07081456B2
Intermediate 10: Preparation of 8-fluoro-2,3-dihydro-4H-thiochromen-4-one
3-[(2-Fluorophenyl)sulfanyl]propanoic acid (4.0 g, 20 mmol) was mixed with concentrated sulphuric acid (20 ml) at 0–5° C. The reaction solution was stirred at 0 to 5° C. for 3 h then allowed to warm up to room temperature overnight. The mixture was quenched dropwise into ice to give a white suspension. The aqueous phase was extracted with ethyl acetate (1×200 ml, 1×100 ml). The combined organic phases were washed with saturated sodium bicarbonate solution (1×50 ml), water (1×50 ml), 1M hydrochloric acid (50 ml) and water (2×50 ml). The organic phase was dried over magnesium sulphate, filtered and concentrated under vacuum. The title compound was isolated as a yellow solid (2.10 g, 11.5 mmol, 58%).

reactant | 3-[(2-Fluorophenyl)sulfanyl]propanoic acid | 20 mmol, 4.0 g | FC1=C(C=CC=C1)SCCC(=O)O | C9H9FO2S
solvent | sulphuric acid | 20 ml | S(O)(O)(=O)=O | H2O4S
product | 8-fluoro-2,3-dihydro-4H-thiochromen-4-one | FC=1C=CC=C2C(CCSC12)=O | C9H7FOS
